US07253196B2
5-isopropyl-2-[(2-morpholin-4-ylethyl)amino]-1,3-oxazol-4(5H)-one
Synthesis was performed from 2-amino-5-isopropyl-1,3-oxazol-4(5H)-one and N-(2-aminoethyl)morpholine according to Method G+H.

reactant | 2-amino-5-isopropyl-1,3-oxazol-4(5H)-one | NC=1OC(C(N1)=O)C(C)C | C6H10N2O2
reactant | N-(2-aminoethyl)morpholine | NCCN1CCOCC1 | C6H14N2O
product | 5-isopropyl-2-[(2-morpholin-4-ylethyl)amino]-1,3-oxazol-4(5H)-one | C(C)(C)C1C(N=C(O1)NCCN1CCOCC1)=O | C12H21N3O3
